US09259470B2
A microwave vial was charged with (S)-1-(2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2(1H)-one (100 mg, 0.190 mmol), 2-oxa-bicyclo[2.2.1]heptan-5-amine hydrochloride (53 mg, 0.47 mmol), TEA (0.50 mmol, 50 mg) and s-butanol (3.0 mL). The mixture was stirred at 130° C. under microwave irradiation for 3 hours. After completion of the reaction, the mixture was concentrated to give 4-(2-(2-oxabicyclo[2.2.1]heptan-5-ylamino)pyrimidin-4-yl)-1-((S)-2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)pyridin-2(1H)-one as an oil, which was used in the next step without further purification. LCMS (ESI) m/z: 571.3 [M+H]+.

reactant | (S)-1-(2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2(1H)-one | 0.190 mmol, 100 mg | [Si](C)(C)(C(C)(C)C)OC[C@H](C1=CC(=C(C=C1)Cl)F)N1C(C=C(C=C1)C1=NC(=NC=C1)S(=O)(=O)C)=O | C24H29ClFN3O4SSi
reactant | 2-oxa-bicyclo[2.2.1]heptan-5-amine hydrochloride | 0.47 mmol, 53 mg | Cl.C12OCC(C(C1)N)C2
solvent | s-butanol | 3.0 mL | C(C)(CC)O | C4H10O
product | 4-(2-(2-oxabicyclo[2.2.1]heptan-5-ylamino)pyrimidin-4-yl)-1-((S)-2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)pyridin-2(1H)-one | C12OCC(C(C1)NC1=NC=CC(=N1)C1=CC(N(C=C1)[C@H](CO[Si](C)(C)C(C)(C)C)C1=CC(=C(C=C1)Cl)F)=O)C2 | C29H36ClFN4O3Si
